US05693827
A mixture of 1-(5,6-dihydro-3-methyl-1,4-dioxin-2-yl)-2,2,2-trifluoroethanone (12 g, 0.06 mole) and powdered potassium hydroxide (6 g, 0.1 mole) was refluxed in toluene (200 ml) for 7 hours. The mixture was cooled, acidified with 6N hydrochloric acid, and the solid precipitate, crude 5,6-dihydro-3-methyl-1,4-dioxin-2-carboxylic acid (6 g, 60% yield) collected.

reactant | 1-(5,6-dihydro-3-methyl-1,4-dioxin-2-yl)-2,2,2-trifluoroethanone | 0.06 mole, 12 g | CC1=C(OCCO1)C(C(F)(F)F)=O | C7H7F3O3
reactant | potassium hydroxide | 0.1 mole, 6 g | [OH-].[K+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6-dihydro-3-methyl-1,4-dioxin-2-carboxylic acid | 6 g, 60% yield | CC1=C(OCCO1)C(=O)O | C6H8O4
